datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[O:62][C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>CC[O:62][C:81]([CH:10]([CH:20]([N-:21][S:32](C1=CC=C(C)C=C1)(=[O:33])=[O:34])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20;20,21=21"
"C1=CC=C([P:10](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][P+:10](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1>>C[C:11]([CH:10]([CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CSC[C:20](C)=[O:21].C[N:10](C)[NH:61]C>>CSC[C:20](C)([N+:10](C)(C)[NH:61]C)[O-:21] 10=20;20,21=21"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.C[C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62]>>C[C:61]([CH:10]([N:20]([N:21]=[C:22]([O-:23])[O:33]CC1=CC=CC=C1)[C:41](=[O:42])[O:43]CC1=CC=CC=C1)[C:81](C1=CC=CC=C1)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[CH:10]([CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[CH2:20][C:31]12C3(C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.C1[C:71](=[O:72])[N-:10][C:61](=[O:62])[O:82]1>>C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH:20]2[N:10]1[C:61](=[O:62])[O:82]C[C:71]1=[O:72] 10=20
"C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C=C(C)C[C:11](C)=[CH2:10].C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C=C(C)C[C+:11](C)[CH2:10][CH:20]([CH:21]=[CH:22][N:23](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C(C#N)C=C2)[C:72](=[O:73])[O:83]1.COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([C:10]2(CC3=CC=C(C#N)C=C3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:13](C)=[CH:12][CH:11]=[CH2:10]>>C[C+:13](C)[CH:12]=[CH:11][CH2:10][CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1 10,11=10,20;12,13=11,12;20,21=21"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[O:12][C:11]2=[CH:10]CCC2)C=C1.CCC[C:20](C)=[O:21]>>CCC[C:20](C)([CH:10]1CCC[C:11]1=[O+:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"C1[C:11]([O-:12])=[N:10][C:61](=[O:62])[O:72]1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([N:10]1[C:11](=[O:12])C[O:72][C:61]1=[O:62])[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"C[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[C:64]1=[CH:63][CH:62]=[C:61]([NH2+:10][S:20]C(F)(F)F)[CH:72]=[CH:73]1 10=20;20,21=21"
